US07754737B2
A solution of (R)-tert-butyl 3-((S)-1-(2-(cyclopropylmethoxy)-3-fluorophenyl)-1-hydroxy-5-methoxypentyl)piperidine-1-carboxylate (120 mg) in 20% TFA/CH2Cl2 (20 mL) was stirred at 0° C. for 5 min. The solvent was neutralized by addition of sat'd aq NaHCO3, and the mixture was extracted with CH2Cl2 (3×). The combined organic layers were dried over Na2SO4 and evaporated to give the crude product. LC-MS analysis of the crude product indicated the presence of two isomers (10:1). The crude product was purified by reverse phase prep HPLC to afford the major isomer, (S)-1-(2-(cyclopropylmethoxy)-3-fluorophenyl)-5-methoxy-1-((R)-piperidin-3-yl)pentan-1-ol (40 mg, 42%). 1H NMR (400 MHz, CD4O): 0.36 (m, 2H), 0.63 (m, 2H), 0.86 (m, 1H), 1.55-1.11 (m, 1H), 1.82 (m, 1H), 2.29 (m, 2H), 2.45 (m, 1H), 2.66 (t, 1H), 2.94 (d, 1H), 3.24 (s, 3H), 3.31 (m, 2H), 3.91 (m, 2H), 6.98 (m, 2H), 726 (m, 1H). MS (E/Z): 366 (M+1). In addition, 2-fluoro-6-((S)-1-hydroxy-5-methoxy-1-((R)-piperidin-3-yl)pentyl)phenol was isolated as a byproduct.

reactant | (R)-tert-butyl 3-((S)-1-(2-(cyclopropylmethoxy)-3-fluorophenyl)-1-hydroxy-5-methoxypentyl)piperidine-1-carboxylate | 120 mg | C1(CC1)COC1=C(C=CC=C1F)[C@@](CCCCOC)(O)[C@H]1CN(CCC1)C(=O)OC(C)(C)C | C26H40FNO5
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | TFA CH2Cl2 | 20 mL | C(=O)(C(F)(F)F)O.C(Cl)Cl
product | (S)-1-(2-(cyclopropylmethoxy)-3-fluorophenyl)-5-methoxy-1-((R)-piperidin-3-yl)pentan-1-ol | 40 mg, 42% | C1(CC1)COC1=C(C=CC=C1F)[C@@](CCCCOC)(O)[C@H]1CNCCC1 | C21H32FNO3
